US07427615B2
Synthesis of 2-(4-benzoylpiperidin-1-yl)-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (Compound No. D001 in Table-1)
A solution of 4-benzoylpiperidine hydrochloride (903 mg, 4.00 mmol), 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one (666 mg, 3.00 mmol) and triethylamine (2.0 ml, 15 mmol) in tetrahydrofuran (30 ml) was refluxed for several hours. After cooling, water was added to the reaction mixture. The precipitate was filtered, washed with water and dried to give the title compound (1.00 g, 81%).

reactant | 4-benzoylpiperidine hydrochloride | 4.00 mmol, 903 mg | Cl.C(C1=CC=CC=C1)(=O)C1CCNCC1
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one | 3.00 mmol, 666 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | triethylamine | 15 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(4-benzoylpiperidin-1-yl)-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 1.00 g, 81% | C(C1=CC=CC=C1)(=O)C1CCN(CC1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C22H22N4O2
